US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-(trifluoromethyl)picolinamide (195 mg, 0.48 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (290 mg, 1.45 mmol) and DIEA (0.17 mL, 0.97 mmol) in N-methylpyrrolidone (“NMP”; 2 mL) were stirred at 148° C. (bath) for 18 hours and at 160° C. for 5 hours. Ethyl acetate (20 mL) was added, and the mixture was washed with water (10 mL), brine (10 mL) and dried over sodium sulfate. After removal of the solvent, the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 45-85% CH3CN/water gradient; 30 CV) to give a solid. This solid was dissolved in DCM (3 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected by filtration to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-(trifluoromethyl)picolinamide (24 mg, 8% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.77 (s, 1H), 8.15 (s, 1H), 8.11 (d, 1H), 7.95 (d, 1H), 7.82 (s, 1H), 3.74 (m, 1H), 3.59 (m, 1H), 3.48 (m, 1H), 3.32 (m, 1H), 2.88 (m, 1H), 2.22 (m, 1H), 2.03 (m, 1H), 1.79 (m, 1H), 1.53 (m, 1H); LCMS (APCI+) m/z 483 (M+H)+.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-(trifluoromethyl)picolinamide | 0.48 mmol, 195 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=NC=C(C=C2)C(F)(F)F)=O)F | C14H7BrF4N4O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.45 mmol, 290 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 0.97 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-(trifluoromethyl)picolinamide | 24 mg, 8% yield | N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=NC=C(C=C2)C(F)(F)F)=O | C19H18BrF3N6O
